US04284631
Ethyl 2-(2-aminothiazol-4-yl)-2-(2-ethoxyethoxyimino)acetate (syn isomer, 11.5 g.), acetic anhydride (8.2 g.) and formic acid (3.7 g.) were treated in a similar manner to that of Example A-(4) to give ethyl 2-(2-formamidothiazol-4-yl)-2-(2-ethoxyethoxyimino)-acetate (syn isomer, 8.6 g.).

reactant | Ethyl 2-(2-aminothiazol-4-yl)-2-(2-ethoxyethoxyimino)acetate | 11.5 g | NC=1SC=C(N1)C(C(=O)OCC)=NOCCOCC | C11H17N3O4S
reactant | acetic anhydride | 8.2 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | formic acid | 3.7 g | C(=O)O | CH2O2
product | ethyl 2-(2-formamidothiazol-4-yl)-2-(2-ethoxyethoxyimino)-acetate | 8.6 g | C(=O)NC=1SC=C(N1)C(C(=O)OCC)=NOCCOCC | C12H17N3O5S
